US07507740B2
Production of 2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoic acid
A mixture of ethyl 2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoate (899 mg), 1N aqueous sodium hydroxide solution (5 mL) and methanol (15 mL) was stirred at 60° C. for 1.5 hrs. To the reaction mixture was added 1N hydrochloric acid (5 mL), and methanol was evaporated under reduced pressure. The precipitated crystals were collected by filtration, and washed with water and acetone to give the title compound (768 mg) as a pale-brown powder.

reactant | ethyl 2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoate | 899 mg | O(C1=CC=CC=C1)C1=C(C(=O)OCC)C=C(C=C1)NC=1C2=C(N=CN1)C=CN2 | C21H18N4O3
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
product | 2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoic acid | 768 mg | O(C1=CC=CC=C1)C1=C(C(=O)O)C=C(C=C1)NC=1C2=C(N=CN1)C=CN2 | C19H14N4O3
